US09303020B2
Preparation of 5-iodo-2-methoxy-4-methylbenzoic acid.
To a mixture of methyl 5-iodo-2-methoxy-4-methylbenzoate (3.0 g, 9.80 mmol) in ethanol (10 ml) in a 50 ml RB flask was added an aqueous solution of NaOH (0.784 g, 19.60 mmol, 1M). The reaction mixture was stirred at room temperature overnight. The solvent was removed under vacuum, the solid filtered and dried to give the titled compound (2.2 g, 74%). LCMS: (ES+) m/z=292 (M+H)+; Column. PUROSPHER@star RP-18 (4×55) mm, 3 μm; Buffer: 20 mM NH4OAc IN WATER; Mphase A: Buffer+MeCN (90+10); Mphase B: Buffer+MeCN (10+90); Flow: 2.5 ml/min Time (min.): 0 2 2.5 3; % B: 0 100 100 0; RT: 1.04 min.

reactant | methyl 5-iodo-2-methoxy-4-methylbenzoate | 9.80 mmol, 3.0 g | IC=1C(=CC(=C(C(=O)OC)C1)OC)C | C10H11IO3
reactant | NaOH | 19.60 mmol, 1M, 0.784 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-iodo-2-methoxy-4-methylbenzoic acid | 2.2 g, 74% | IC=1C(=CC(=C(C(=O)O)C1)OC)C | C9H9IO3
